US05463063
A stirred suspension of (S)-glutamine (14.6 g, 100 mmol) and 2,3-pyridinedicarboxylic anhydride (14.9 g, 100 mmol) in 100 mL of acetic acid is heated and refluxed for 1 hour. The reaction solution is cooled to form a solid. The solid is removed by filtration and washed with acetic acid to yield 7.11 g (26%) of 2-(1,3-dioxo-4-azaisoindolin-2yl)glutaramic acid. The product can be further purified by slurring in 700 mL of refluxing ethanol, cooling, filtering, and drying to produce a white powder with a melting point of 222°-226° C.; 1H NMR (DMSO-d6) δ 13.25 (br s, 1 H, COOH), 9.04 (dd, 1 H, J=1.2, 4.9 Hz, pyr), 8.37 (dd, 1 H, J =1.2, 7.8 Hz, pyr), 7.85 (dd, 1 H, J=4.9, 7.8 Hz, pyr), 7.20 (s, 1 H, CONH2), 6.73 (s, 1 H, CONH2), 4.83 (dd, 1 H, J=10.2, 4.8 Hz, CHN), 2.55-1.90 (m, 4 H, CH2CH2); 13C NMR (DMSO-d6) δ1173.22, 170.21, 165.8, 165.7, 155.4, 150.9, 131.7, 128.3, 126.9, 51.5, 31.4, 24.0.

reactant | (S)-glutamine | 100 mmol, 14.6 g | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | 2,3-pyridinedicarboxylic anhydride | 100 mmol, 14.9 g | N1=C2C(=CC=C1)C(=O)OC2=O | C7H3NO3
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 2-(1,3-dioxo-4-azaisoindolin-2yl)glutaramic acid | 7.11 g, 26% | O=C1N(C(C2=NC=CC=C12)=O)C(C(=O)O)CCC(=O)N | C12H11N3O5
